US07501413B2
A stirred suspension of (1RS,2SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid (140 mg) in MeOH (5 ml) was cooled to 0° C. and treated with thionyl chloride (10 drops). The mixture turned immediately into a clear solution. Stirring was continued for 3 hrs at 0° C. Then the reaction mixture was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2−>CH2Cl2/MeOH) to give (1RS,2SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid methyl ester (84 mg) as colorless amorphous solid. MS: 353.4 ([M+H]+).

reactant | (1RS,2SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid | 140 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1C(C1)C(=O)O | C16H13FN2O4
reactant | MeOH | 5 ml | CO | CH4O
catalyst | thionyl chloride | 10 drops | S(=O)(Cl)Cl | Cl2OS
product | (1RS,2SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid methyl ester | 84 mg | COC(=O)C1C(C1)C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C17H15FN2O4
